US07348438B2
2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-phenyl-ethanone
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (301 mg) in DMF (5 mL) was added sodium hydride (67 mg of 60% in oil dispersion). The resulting mixture was stirred at room temperature for 5 min. To the dark green solution was added 2-bromo-acetophenone (273 mg) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as an off-white solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 301 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | sodium hydride | 67 mg | [H-].[Na+]
reactant | 2-bromo-acetophenone | 273 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-phenyl-ethanone | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC(=O)C2=CC=CC=C2)C=C1Cl | C17H11Cl2F3N2O
